**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT mjd6039t4 1 2 3
* Model generated on Dec 26, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 8.52974
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 60
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.59572 N=0.995957 XTI=2.99596
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=3.89907e-12 BF=59.4634 NF=0.496891 VAF=30
+IKF=0.371373 ISE=1.56267e-12 NE=3.99995 BR=2.67183
+NR=1.00735 VAR=102.5 IKR=0.0935545 ISC=9.97768e-14
+NC=2.0084 RB=24.163 IRB=0.195958 RBM=24.163
+RE=0.0002 RC=0.001 XTB=0.454287 XTI=2.98449 EG=1.05
+CJE=1.996e-10 VJE=0.4 MJE=0.00170696 TF=9.99612e-10
+XTF=1 VTF=10 ITF=0.01 CJC=4.44409e-11
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=3.89907e-12 BF=59.4634 NF=0.496891 VAF=30
+IKF=0.371373 ISE=1.56267e-12 NE=3.99995 BR=2.67183
+NR=1.00735 VAR=102.5 IKR=0.0935545 ISC=9.97768e-14
+NC=2.0084 RB=24.163 IRB=0.195958 RBM=24.163
+RE=0.0002 RC=0.001 XTB=0.454287 XTI=2.98449 EG=1.05
+CJE=1.996e-10 VJE=0.4 MJE=0.00170696 TF=9.99612e-10
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
